US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[2,5-BIS(TRIFLUOROMETHYL) BENZYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 2,5-bistrifluoromethyl benzaldehyde. MS (ESI) m/z 605.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2,5-bistrifluoromethyl benzaldehyde | FC(C1=C(C=O)C=C(C=C1)C(F)(F)F)(F)F | C9H4F6O
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[2,5-BIS(TRIFLUOROMETHYL) BENZYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)C(F)(F)F)C(F)(F)F)C(F)(F)F | C32H21F9N2
